US09216980B2
Step 1: 1-(2-Chloro-4,6-dimethoxybenzyl)-piperidine
To a pre-stirred solution of 2-chloro-4,6-dimethoxybenzaldehyde (2.7 g, 13.5 mmol) and piperidine (1.46 mL, 14.9 mmol) in DCM (50 mL) at 0° C. was added sodium triacetoxyborohydride (4.29 g, 20.0 mmol) in portions. The reaction mixture was then allowed to warm to ambient and stirred for an additional 3 h before the addition of water (50 mL). The pH of the aqueous phase was adjusted to 2 by the addition of hydrochloric acid and then washed with DCM (50 mL). The pH of the aqueous phase was then adjusted to 9 by the addition of saturated aqueous sodium carbonate and then the organic component was extracted into DCM (50 mL), dried over sodium sulfate and evaporated under reduced pressure to afford the title compound as a beige solid (3.3 g, 91%) that was used without further purification. 1H NMR (CDCl3, 300 MHz): 6.60 (d, J=2.4 Hz, 1H), 6.43 (d, J=2.4 Hz, 1H), 4.35 (s, 2H), 3.90 (s, 3H), 3.83 (s, 3H), 3.6-2.57 (ν br m, 4H), 2.29-1.88 (br m, 4H), 1.71-1.40 (br m, 2H).

reactant | 2-chloro-4,6-dimethoxybenzaldehyde | 13.5 mmol, 2.7 g | ClC1=C(C=O)C(=CC(=C1)OC)OC | C9H9ClO3
reactant | piperidine | 14.9 mmol, 1.46 mL | N1CCCCC1 | C5H11N
reactant | sodium triacetoxyborohydride | 20.0 mmol, 4.29 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 1-(2-Chloro-4,6-dimethoxybenzyl)-piperidine | 3.3 g, 91% | ClC1=C(CN2CCCCC2)C(=CC(=C1)OC)OC | C14H20ClNO2
